2156-05-26 06:32:00 Physician Resident Progress Note
Chief Complaint:  respiratory distress and altered mental status
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2156-5-25**] 10:18 AM
   Pt unresponsive until 2100 yesterday. Pt became agitated and was placed
   on versed drip.
   Drip was stopped this am to assess mental status.  Pt subsequently
   pulled out NG tube.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-5-26**] 01:27 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2156-5-25**] 08:29 AM
   Midazolam (Versed) - [**2156-5-26**] 12:15 AM
   Heparin Sodium (Prophylaxis) - [**2156-5-26**] 01:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-5-26**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 82 (81 - 113) bpm
   BP: 100/51(62) {76/32(43) - 116/58(74)} mmHg
   RR: 20 (19 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
             Total In:
                                                                  1,757 mL
                                                                     66 mL
   PO:
             TF:
   IVF:
                                                                  1,147 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    941 mL
                                                                    170 mL
   Urine:
                                                                    701 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    816 mL
                                                                   -104 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (0 - 300) mL
   Vt (Spontaneous): 0 (0 - 250) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.31/67/138/33/5
   Ve: 8 L/min
   PaO2 / FiO2: 345
   Physical Examination
   Gen: NAD, pt asleep, does not respond to name or follow commands
   CV: RRR, no M/R/G
   Lungs: scattered rhonchi L>R, on VC ventilation
   Abd: +bs, soft, nt, distended lower abdomen; no fluid wave
   Ext: warm, no edema, 1+ distal pulses, 2+ radial pulses
   Labs / Radiology
   513 K/uL
   8.4 g/dL
   113 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.9 mEq/L
   16 mg/dL
   108 mEq/L
   144 mEq/L
   27.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2156-5-25**]  02:32 AM
                             [**2156-5-25**]  03:45 AM
                             [**2156-5-25**]  05:19 AM
                             [**2156-5-25**]  03:41 PM
                             [**2156-5-25**]  04:58 PM
                             [**2156-5-25**]  08:43 PM
                             [**2156-5-26**]  04:56 AM
   WBC
   9.8
   14.8
   7.3
   Hct
   27.1
   37.1
   27.8
   Plt
   521
   536
   513
   Cr
   0.5
   0.4
   TropT
   <0.01
   TCO2
   4
   34
   35
   35
   Glucose
   120
   113
   Other labs: PT / PTT / INR:12.7/28.6/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Lactic Acid:1.3 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   A/P: 86 y/o F with COPD and UC a/w hypoxia and change in mental status,
   intubated in the ED for hypercarbic respiratory failure.
   .
   #Hypercarbic respiratory failure - COPD exacerbation most likely in the
   setting of viral URI, less likely bacterial pneumonia or fluid overload
   based on CXR.  ABG likely reflects baseline CO2 retention. Minimal
   sedation requirement on vent.
   - pt doing well on VC ventilation; RSBI 25 but  RR 6; unlikely to be
   able to extubate without improvement in mental status.  Will attempt
   SBT when mental status improves.
   -refrain from continuing versed for sedation; switch to haldol for
   sedation
   -will cont. levaquin while awaiting culture data
   -continue week-long taper of prednisone 4O po
   -atrovent MDI
   -albuterol MDI
   -flovent [**Hospital1 **]
   -          PFT's as an outpatient
   -          ECHO [**2156-5-25**]: moderate pulmonary artery systolic HTN; mild
   MR; LVEF >55%
   #Altered Mental Status:  etiology unknown; baseline mild dementia; no
   known head trauma, no focal neurologic defects, no known metabolic
   abnormalities. Ddx includes infection, hypercarbia, and CVA; continue
   Abx current clinical presentation of delirium; pt removed her NG tube;
   agitation controlled with versed; pt remains unresponsive, does not
   follow commands.
   -          d/c versed
   -          start scheduled and prn Haldol po prn agitation
   #Hypernatremia
 in the setting of volume depletion; stable at 144
   -minimize additional volume in anticipation of extubation in next
   couple days
   -free H20 flushes per NG (250 cc q6 x 4)
   .
   #Recent C.diff colitis - appears to have resolved
   -cont. PO vanco x 4 wks, particularly while on ABX
   .
   #Ulcerative Colitis- apparently quiescent disease, although necrotic
   leg ulcer looks like pyoderma gangrenosum
   -cont. balsalazide and mesalamine
   -touch base with Dr. [**Last Name (STitle) 3515**]
   .
   #Hyperbicarbonatemia - suspect partly chronic compensation for
   respiratory acidosis as patient is a CO2-retainer, exacerbated by
   diuresis in the setting of volume depletion prior to admission
   .
   #Leukocytosis
 WBC now WNL, may have been a continuation of the trend
   down from episode of C. diff
   -blood, urine, sputum Cx pending
   .
   #Thrombocytosis - chronic, dating back to [**12-26**]; likely reactive in the
   setting of infection, Fe-deficiency anemia and/or IBD
   -no treatment at this time, as no s/sx bleeding or thrombosis
   .
   #Anemia - b/l 35-38%; hct in last 24 hrs 34 > 27 > 37> 27%; will
   recheck this afternoon no s/sx bleeding
   -consider Fe studies, B12, folate, retic to determine if mixed picture
   -guaiac stools
   -cont. outpatient Fe
   #F/E/N
 euvolemic by exam
   - replace NG tube
   - start TF today; will hold tube feeds when mental status improves in
   order to safely attempt extubation.
   -appreciate nutrition C/S in AM
 Probalance (goal 35 cc/hr)
   -cont. hold lasix
   .
   #PPI, SQH, bowel regimen
   .
   #Access - PIV
   .
   #Contact: [**Name (NI) 263**] [**Name (NI) 3518**] h:[**Telephone/Fax (1) 3519**] w:[**Telephone/Fax (1) 3520**]
   .
   #Code Status - Full
   .
   #Dispo - ICU;
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-5-26**] 12:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-05-27 08:05:00 Physician Resident Progress Note
Chief Complaint: Hypoxic resp failure
   24 Hour Events:
   Became acutely agitated with weaning of versed gtt in anticipation of
   lightening vent support. Placed back on VC 350/18/40/5 with propofol
   gtt and haldol PRN for agitation.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-5-27**] 06:07 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2156-5-26**] 04:55 PM
   Midazolam (Versed) - [**2156-5-26**] 11:30 PM
   Heparin Sodium (Prophylaxis) - [**2156-5-26**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: intubated, sedated
   Flowsheet Data as of  [**2156-5-27**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 71 (64 - 112) bpm
   BP: 104/44(57) {89/37(51) - 156/84(92)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
             Total In:
                                                                    364 mL
                                                                     92 mL
   PO:
             TF:
   IVF:
                                                                    244 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                    200 mL
   Urine:
                                                                    430 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -66 mL
                                                                   -108 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (300 - 350) mL
   Vt (Spontaneous): 73 (73 - 260) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 28 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.30/75/114/33/7
   Ve: 6.8 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   531 K/uL
   9.1 g/dL
   78 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   16 mg/dL
   107 mEq/L
   147 mEq/L
   29.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2156-5-25**]  05:19 AM
                             [**2156-5-25**]  03:41 PM
                             [**2156-5-25**]  04:58 PM
                             [**2156-5-25**]  08:43 PM
                             [**2156-5-26**]  04:56 AM
                             [**2156-5-26**]  12:15 PM
                             [**2156-5-26**]  12:43 PM
                             [**2156-5-26**]  03:10 PM
                             [**2156-5-26**]  05:46 PM
                             [**2156-5-27**]  04:53 AM
   WBC
   9.8
   14.8
   7.3
   9.6
   Hct
   27.1
   37.1
   27.8
   30.9
   29.8
   Plt
   521
   536
   513
   531
   Cr
   0.5
   0.4
   0.5
   TropT
   <0.01
   TCO2
   35
   35
   37
   38
   38
   Glucose
   120
   113
   78
   Other labs: PT / PTT / INR:12.7/28.6/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Lactic Acid:1.3 mmol/L, Ca++:9.4 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   Microbiology: [**5-24**] blood Cx - pending
   [**5-26**] sputum GS -  GNR
   [**5-26**] urine Cx - >100K E. Coli
   Assessment and Plan
   A/P: 86 y/o F with COPD and UC a/w hypoxia and change in mental status
   in the setting of hypercarbic respiratory failure in the setting of
   resp infection.
   .
   #Hypercarbic respiratory failure - COPD exacerbation most likely in the
   setting of viral URI vs. bacterial PNA. GNR on sputum GS may reflect
   colonization. Less likely volume overload due to CHF as volume depleted
   on admission, CXR did not show pulm edema, and LV function normal by
   echo [**5-25**]. Clinically stable, afebrile without leukocytosis. Alternating
   delirium/agitation and sedation makes it difficult to assess
   respiratory status. Will likely not tolerate PSV due to mental status
   - Cont full support on current settings VC 350/40/18/5; RSBI deferred
   [**12-20**] level of sedation
   - d/c versed gtt; start propofol gtt to keep sedated while benzos clear
   from system, can always turn off to reassess MS
   [**Name13 (STitle) 3551**] cont. levaquin (day [**1-30**]) while awaiting spec/[**Last Name (un) **]; if
   deteriorates, consider +cefepime (pt does have PCN allergy)
   -continue week-long taper of prednisone; day 3 of 40 mg, may taper to
   30 tomorrow
   -atrovent MDI
   -albuterol MDI
   -flovent [**Hospital1 **]
   .
   #Altered Mental Status -  toxic/metabolic encephalopathy [**12-20**] infection
   and/or drug-induced by benzos and steroids; hypercarbia unlikely
   playing a prominent role as significant degree of CO2 retention at b/l
   -d/c versed gtt
   -taper steroids as above
   -ABX for UTI, presumed PNA
   -standing/prn haldol
   .
   #UTI
   -cont. levaquin while awaiting speciation/sensitivities
   .
   #Hypernatremia
 likely volume depleted; free H20 deficit ~1 L
   -minimize additional volume in anticipation of extubation in next
   couple days
    -free H20 flushes per NG (250 cc q6 x 4)
   .
   #Recent C.diff colitis - appears to have resolved
   -cont. PO vanco x 4 wks, particularly while on ABX
   .
   #Ulcerative Colitis- apparently quiescent disease, although necrotic
   leg ulcer looks like pyoderma gangrenosum
   -cont. balsalazide and mesalamine
   -touch base with Dr. [**Last Name (STitle) 3515**]
   .
   #Thrombocytosis - chronic, dating back to [**12-26**]; likely reactive in the
   setting of infection, Fe-deficiency anemia and/or IBD
   -no treatment at this time, as no s/sx bleeding or thrombosis
   .
   #Anemia - b/l 35-38%; Hct stable throughout admission, no s/sx bleeding
   -follow daily
   -x-fuse for Hct < 21%
   .
   #F/E/N
   -correct free H20 deficit as above
   -volume goal: even
   -TF
 Probalance (goal 35 cc/hr)
   .
   #PPI, SQH, bowel regimen
   .
   #Access - PIV
   .
   #Contact: [**Name (NI) 263**] [**Name (NI) 3518**] h:[**Telephone/Fax (1) 3519**] w:[**Telephone/Fax (1) 3520**]
   .
   #Code Status - Full
   .
   #Dispo - ICU
   ICU Care
   Nutrition: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2156-5-26**] 12:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2156-05-28 06:47:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
   Some agitation overnight.  Overall doing well on propofol gtt.  Dosing
   limited by blood pressure response.
   Pt had period of improved mental status yesterday.  Was able to answer
   some yes/no  questions and follow basic commands.
   Meeting with family [**2156-5-27**]:  decision was made to make pt DNR/DNI with
   no reintubation.
   Low UOP overnight. Given 250 IVF this am.
   Attempt to check RSBI this am.  Reports of apnea.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-5-27**] 08:00 PM
   Vancomycin - [**2156-5-28**] 05:20 AM
   Infusions:
   Propofol - 24.4 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2156-5-27**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2156-5-27**] 11:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-5-28**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 76 (58 - 102) bpm
   BP: 131/59(76) {88/41(52) - 152/97(107)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 40.1 kg (admission): 41 kg
   Height: 58 Inch
             Total In:
                                                                  1,992 mL
                                                                    750 mL
   PO:
             TF:
                                                                    196 mL
                                                                     80 mL
   IVF:
                                                                    671 mL
                                                                    370 mL
   Blood products:
   Total out:
                                                                    431 mL
                                                                    110 mL
   Urine:
                                                                    431 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,561 mL
                                                                    640 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 6.6 L/min
   Physical Examination
   Gen: NAD, not responsive, not following commands
   CV: RRR no M/R/G
   Lungs: CTA anteriorly
   Ext: warm, dry,  1+ distal pulses
   Labs / Radiology
   Microbiology:
   [**5-24**] blood cx - pending
   [**5-26**] sputum cx no growth
   [**5-24**] sputum GS -  rare hemophilus species (not influenzae)
   [**5-26**] urine Cx - >100K E. Coli
   555 K/uL
   9.1 g/dL
   84 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.5 mEq/L
   24 mg/dL
   103 mEq/L
   140 mEq/L
   29.8 %
   12.2 K/uL
        [image002.jpg]
                             [**2156-5-25**]  04:58 PM
                             [**2156-5-25**]  08:43 PM
                             [**2156-5-26**]  04:56 AM
                             [**2156-5-26**]  12:15 PM
                             [**2156-5-26**]  12:43 PM
                             [**2156-5-26**]  03:10 PM
                             [**2156-5-26**]  05:46 PM
                             [**2156-5-27**]  04:53 AM
                             [**2156-5-28**]  12:17 AM
                             [**2156-5-28**]  04:48 AM
   WBC
   14.8
   7.3
   9.6
   12.2
   Hct
   37.1
   27.8
   30.9
   29.8
   29.8
   Plt
   536
   513
   531
   555
   Cr
   0.4
   0.5
   0.6
   0.6
   TCO2
   35
   37
   38
   38
   Glucose
   113
   78
   108
   84
   Other labs: PT / PTT / INR:12.7/28.6/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Lactic Acid:1.3 mmol/L, Ca++:9.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   A/P: 86 y/o F with COPD and UC a/w hypoxia and change in mental status
   in the setting of hypercarbic respiratory failure in the setting of
   resp infection.
   #Hypercarbic respiratory failure - COPD exacerbation most likely in the
   setting of viral URI vs. bacterial PNA. GNR on sputum GS may reflect
   colonization. Less likely volume overload due to CHF as volume depleted
   on admission, CXR did not show pulm edema, and LV function normal by
   echo [**2156-5-25**]. Clinically stable, afebrile without leukocytosis.
   Alternating delirium/agitation and sedation makes it difficult to
   assess respiratory status.  Did not tolerate trial of PSV yesterday
   (caused tachycardia and HTN)
   - Cont full support on current settings VC 350/40/18/5; RSBI this
   morning inadequate due to apnea (on propofol).
   - CXR [**2156-5-28**]: final report pending; appears to have new LLL
   consolidation concerning for VAP.  Consolidation less evident on repeat
   cxr.
   - continue abx as below
   - continue propofol gtt to keep sedated while benzos clear from system
   -continue week-long taper of prednisone; day 2 of 30 mg, may taper to
   20 tomorrow
   -atrovent MDI
   -albuterol MDI
   -flovent [**Hospital1 **]
   Possible VAP:
   -          CXR [**2156-5-28**]: final report pending; appears to have new LLL
   consolidation concerning for VAP.  However, consolidation less evident
   on repeat cxr.
   -          Repeat sputum and blood cultures.
   -          Obtain Chest CT today to confirm VAP
   -          Begin empiric treatment with meropenem, vanco and continue
   levaquin
   -          Inquire about penicillin allergy
           -      order PICC line
   #Altered Mental Status -  toxic/metabolic encephalopathy [**12-20**] infection
   and/or drug-induced by benzos and steroids; hypercarbia unlikely
   playing a prominent role as significant degree of CO2 retention at
   b/l.  Pt is more responsive this afternoon.  Makes eye contact answers
   yes/no questions appropriately.
   -taper steroids as above
   -ABX for UTI, presumed PNA
   -standing/prn haldol
   .
   #UTI
   -Abx as above while awaiting speciation/sensitivities
   .
   #Hypernatremia
 likely volume depleted; free H20 deficit ~1 L
   -minimize additional volume in anticipation of extubation in next
   couple days
    -free H20 flushes per NG (250 cc q6 x 4)
   .
   #Recent C.diff colitis - appears to have resolved
   -cont. PO vanco x 4 wks, particularly while on ABX
   .
   #Ulcerative Colitis- apparently quiescent disease, although necrotic
   leg ulcer looks like pyoderma gangrenosum
   -cont. balsalazide and mesalamine
   -touch base with Dr. [**Last Name (STitle) 3515**]
   .
   #Thrombocytosis - chronic, dating back to [**12-26**]; likely reactive in the
   setting of infection, Fe-deficiency anemia and/or IBD
   -no treatment at this time, as no s/sx bleeding or thrombosis
   .
   #Anemia - b/l 35-38%; Hct stable throughout admission, no s/sx bleeding
   -follow daily
   -x-fuse for Hct < 21%
   .
   #F/E/N
   -correct free H20 deficit as above
   -volume goal: even
   -restart TF
 Probalance (goal 35 cc/hr)
   #PPI, SQH, bowel regimen
   #Access
 PIV, PICC to be placed
   .
   #Contact: [**Name (NI) 263**] [**Name (NI) 3518**] h:[**Telephone/Fax (1) 3519**] w:[**Telephone/Fax (1) 3520**]
   #Code Status
 DNR/DNI
   #Dispo - ICU
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-5-26**] 12:49 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer:  PPI
   VAP:  elevated HOB, chlorahexadine washes
   Comments:
   Communication:  Comments:  daughter [**Name (NI) 263**] [**Last Name (NamePattern1) 3518**]
   Code status: DNR/DNI
   Disposition: ICU

2156-05-29 07:38:00 Physician Resident Progress Note
Chief Complaint: resp failure.
   86 y/o F with COPD and UC a/w hypoxia and change in mental status in
   the setting of hypercarbic respiratory failure in the setting of resp
   infection
   24 Hour Events:
    -- CT of chest revealed possible PNA -- concern re: VAP. Blood cx &
   Sputum cx sent yesterday.
   -- PICC LINE - START [**2156-5-28**] 12:23 PM
   -- Also given 10 mg of lasix IV for low urine output.  put out 300 cc.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-5-28**] 12:01 PM
   Meropenem - [**2156-5-29**] 12:01 AM
   Vancomycin - [**2156-5-29**] 07:06 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2156-5-28**] 07:37 PM
   Furosemide (Lasix) - [**2156-5-28**] 08:28 PM
   Heparin Sodium (Prophylaxis) - [**2156-5-28**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-5-29**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96
   HR: 65 (52 - 92) bpm
   BP: 109/44(60) {97/41(57) - 150/91(105)} mmHg
   RR: 18 (18 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41 kg (admission): 41 kg
   Height: 58 Inch
             Total In:
                                                                  3,335 mL
                                                                    215 mL
   PO:
             TF:
                                                                    480 mL
   IVF:
                                                                  1,385 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    265 mL
   Urine:
                                                                  1,480 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,855 mL
                                                                    -50 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 203 (203 - 203) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 128
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 6.5 L/min
   Physical Examination
   Gen:
   Lungs:
   CV:
   ABD:
   Ext:
   Labs / Radiology
   501 K/uL
   8.7 g/dL
   109 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.6 mEq/L
   17 mg/dL
   101 mEq/L
   140 mEq/L
   27.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2156-5-25**]  08:43 PM
                             [**2156-5-26**]  04:56 AM
                             [**2156-5-26**]  12:15 PM
                             [**2156-5-26**]  12:43 PM
                             [**2156-5-26**]  03:10 PM
                             [**2156-5-26**]  05:46 PM
                             [**2156-5-27**]  04:53 AM
                             [**2156-5-28**]  12:17 AM
                             [**2156-5-28**]  04:48 AM
                             [**2156-5-29**]  05:34 AM
   WBC
   7.3
   9.6
   12.2
   12.2
   Hct
   27.8
   30.9
   29.8
   29.8
   27.2
   Plt
   [**Telephone/Fax (3) 3566**]01
   Cr
   0.4
   0.5
   0.6
   0.6
   0.5
   TCO2
   35
   37
   38
   38
   Glucose
   113
   78
   108
   84
   109
   Other labs: PT / PTT / INR:12.7/28.6/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:9.4
   %, Mono:5.9 %, Eos:1.1 %, Lactic Acid:1.3 mmol/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging:
    CT chest [**2156-5-29**] - PFI: No pneumonia. Small bilateral pleural effusion
   and adjacent atelectasis. Severe emphysema.
   CXR [**2156-5-29**] - looks similar to previous -- area of concern yesterday L
   CP angle is cut off on this film.
   Microbiology: sputum gm stain - Haemophilus species
   other sputum gm stains neg x2
   Sputum Cx- pending
   Blood cx x2 pending
   urine cx neg.
   Assessment and Plan
   86 y/o F with COPD and UC a/w hypoxia and change in mental status in
   the setting of hypercarbic respiratory failure in the setting of resp
   infection.
   #Hypercarbic respiratory failure - COPD exacerbation most likely in the
   setting of viral URI vs. bacterial PNA. GNR on sputum GS may reflect
   colonization. Less likely volume overload due to CHF as volume depleted
   on admission, CXR did not show pulm edema, and LV function normal by
   echo [**2156-5-25**]. Clinically stable, afebrile without leukocytosis.
   Alternating delirium/agitation and sedation makes it difficult to
   assess respiratory status.  Did not tolerate trial of PSV yesterday
   (caused tachycardia and HTN)
   - Cont full support on current settings VC 350/40/18/5; RSBI this
   morning inadequate due to apnea (on propofol).
   - CXR [**2156-5-28**]: final report pending; appears to have new LLL
   consolidation concerning for VAP.  Consolidation less evident on repeat
   cxr.
   - continue abx as below
   - continue propofol gtt to keep sedated while benzos clear from system
   -continue week-long taper of prednisone; day 2 of 30 mg, may taper to
   20 tomorrow
   -atrovent MDI
   -albuterol MDI
   -flovent [**Hospital1 **]
   Possible VAP:
   -          CXR [**2156-5-28**]: final report pending; appears to have new LLL
   consolidation concerning for VAP.  However, consolidation less evident
   on repeat cxr.
   -          Repeat sputum and blood cultures.
   -          Obtain Chest CT today to confirm VAP
   -          Begin empiric treatment with meropenem, vanco and continue
   levaquin
   -          Inquire about penicillin allergy
   -      order PICC line
   #Altered Mental Status -  toxic/metabolic encephalopathy [**12-20**] infection
   and/or drug-induced by benzos and steroids; hypercarbia unlikely
   playing a prominent role as significant degree of CO2 retention at
   b/l.  Pt is more responsive this afternoon.  Makes eye contact answers
   yes/no questions appropriately.
   -taper steroids as above
   -ABX for UTI, presumed PNA
   -standing/prn haldol
   #UTI
   -Abx as above while awaiting speciation/sensitivities
   #Hypernatremia
 likely volume depleted; free H20 deficit ~1 L
   -minimize additional volume in anticipation of extubation in next
   couple days
    -free H20 flushes per NG (250 cc q6 x 4)
   #Recent C.diff colitis - appears to have resolved
   -cont. PO vanco x 4 wks, particularly while on ABX
   #Ulcerative Colitis- apparently quiescent disease, although necrotic
   leg ulcer looks like pyoderma gangrenosum
   -cont. balsalazide and mesalamine
   -touch base with Dr. [**Last Name (STitle) 3515**]
   #Thrombocytosis - chronic, dating back to [**12-26**]; likely reactive in the
   setting of infection, Fe-deficiency anemia and/or IBD
   -no treatment at this time, as no s/sx bleeding or thrombosis
   #Anemia - b/l 35-38%; Hct stable throughout admission, no s/sx bleeding
   -follow daily
   -x-fuse for Hct < 21%
   #F/E/N
   -correct free H20 deficit as above
   -volume goal: even
   -restart TF
 Probalance (goal 35 cc/hr)
   #PPI, SQH, bowel regimen
   #Access
 PIV, PICC to be placed
   #Contact: [**Name (NI) 263**] [**Name (NI) 3518**] h:[**Telephone/Fax (1) 3519**] w:[**Telephone/Fax (1) 3520**]
   #Code Status
 DNR/DNI
   #Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-5-28**] 12:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-05-30 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-5-29**] 12:23 PM
   Meropenem - [**2156-5-30**] 12:00 AM
   Vancomycin - [**2156-5-30**] 06:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2156-5-29**] 09:50 PM
   Heparin Sodium (Prophylaxis) - [**2156-5-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-5-30**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 75 (54 - 98) bpm
   BP: 106/55(66) {90/41(55) - 147/83(97)} mmHg
   RR: 24 (15 - 24) insp/min
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 41 kg (admission): 41 kg
   Height: 58 Inch
             Total In:
                                                                  2,341 mL
                                                                    653 mL
   PO:
             TF:
                                                                  1,004 mL
                                                                    257 mL
   IVF:
                                                                    717 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    585 mL
   Urine:
                                                                  2,280 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     61 mL
                                                                     68 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 179 (179 - 179) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   ABG: ///40/
   Ve: 7.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   460 K/uL
   8.6 g/dL
   101 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.7 mEq/L
   12 mg/dL
   101 mEq/L
   144 mEq/L
   27.6 %
   9.7 K/uL
        [image002.jpg]
                             [**2156-5-26**]  12:15 PM
                             [**2156-5-26**]  12:43 PM
                             [**2156-5-26**]  03:10 PM
                             [**2156-5-26**]  05:46 PM
                             [**2156-5-27**]  04:53 AM
                             [**2156-5-28**]  12:17 AM
                             [**2156-5-28**]  04:48 AM
                             [**2156-5-29**]  05:34 AM
                             [**2156-5-29**]  05:15 PM
                             [**2156-5-30**]  03:09 AM
   WBC
   9.6
   12.2
   12.2
   9.7
   Hct
   30.9
   29.8
   29.8
   27.2
   27.6
   Plt
   531
   555
   501
   460
   Cr
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   TCO2
   37
   38
   38
   Glucose
   78
   108
   84
   109
   101
   Other labs: PT / PTT / INR:12.7/28.6/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:9.4
   %, Mono:5.9 %, Eos:1.1 %, Lactic Acid:1.3 mmol/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   86 y/o F with COPD and UC a/w hypoxia and change in mental status in
   the setting of hypercarbic respiratory failure in the setting of resp
   infection.
   #Hypercarbic respiratory failure - COPD exacerbation most likely in the
   setting of viral URI vs. bacterial PNA.  Less likely volume overload
   due to CHF as volume depleted on admission, CXR did not show pulm
   edema, and LV function normal by echo [**2156-5-25**]. Clinically stable,
   afebrile without leukocytosis. Sedation improved with propofol.   RSBI
   today not favorable for extubation.
   - Cont full support on current settings VC 350/40/18/5; RSBI this
   morning inadequate due to apnea (on propofol).
   - obtain CXR tomorrow to further eval L CP angle
 radiologist did not
   feel it was a PNA on CXR.
   -continue abx as below
   - continue propofol gtt to keep sedated while benzos clear from system
   -continue week-long taper of prednisone taper to 20mg PO today.
   Continue for 1 more days, then down to 10mg.
   -atrovent MDI
   -albuterol MDI
   -flovent [**Hospital1 **]
   -Consider SBT tomorrow morning and possible extubation when daughter is
   present.  Check 5 pm lytes and consider lasix 10 mg IV to help diuresis
   of pos fluid balance.
   Possible VAP:
   -          CT scan was less concern ing for VAP
   -          f-up re: blood and sputum cx.
   -          Continue empiric tx with meropenem (day 3), vanco (day 6)
   and continue levaquin (day [**4-24**]) for H. flu cov'g
   -          Inquire about penicillin allergy
   #Altered Mental Status -  toxic/metabolic encephalopathy [**12-20**] infection
   and/or drug-induced by benzos and steroids; hypercarbia unlikely
   playing a prominent role as significant degree of CO2 retention at
   b/l.  Makes eye contact answers yes/no questions appropriately.
   -taper steroids as above
   -ABX for UTI, presumed PNA
   #UTI
   -Abx as above while awaiting speciation/sensitivities
   #Hypernatremia
 resolved
   -minimize additional volume in anticipation of extubation in next
   couple days
    -d/c free H2O boluses per ng.
   #Recent C.diff colitis - appears to have resolved
   -cont. PO vanco x 4 wks, particularly while on ABX  -- continue 2 week
   after last dose of abx.
   #Ulcerative Colitis- apparently quiescent disease, although necrotic
   leg ulcer looks like pyoderma gangrenosum
   -cont. balsalazide and mesalamine
   -touch base with Dr. [**Last Name (STitle) 3515**]
   #Thrombocytosis - chronic, dating back to [**12-26**]; likely reactive in the
   setting of infection, Fe-deficiency anemia and/or IBD
   -no treatment at this time, as no s/sx bleeding or thrombosis
   #Anemia - b/l 35-38%; Hct stable throughout admission, no s/sx bleeding
   -follow daily
   -x-fuse for Hct < 21%
   #F/E/N
   -volume goal: 500 ml neg
   -restart TF
 Probalance (goal 35 cc/hr)
   #PPI, SQH, bowel regimen
   #Access
 PIV, PICC to be placed
   #Contact: [**Name (NI) 263**] [**Name (NI) 3518**] h:[**Telephone/Fax (1) 3519**] w:[**Telephone/Fax (1) 3520**]
   #Code Status
 DNR/DNI (for Reintubation)
   #Dispo - ICU
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-5-29**] 11:53 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2156-5-28**] 12:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2156-05-31 06:27:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure, UTI
   24 Hour Events:
   Agitation overnight
   Tachycardia and hypertension did not respond to metoprolol or zyprexa
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-5-29**] 12:23 PM
   Meropenem - [**2156-5-31**] 12:00 AM
   Vancomycin - [**2156-5-31**] 06:00 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2156-5-30**] 04:15 PM
   Morphine Sulfate - [**2156-5-30**] 04:15 PM
   Fentanyl - [**2156-5-30**] 08:18 PM
   Furosemide (Lasix) - [**2156-5-30**] 08:39 PM
   Heparin Sodium (Prophylaxis) - [**2156-5-31**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-5-31**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96
   HR: 104 (58 - 119) bpm
   BP: 154/69(86) {89/44(58) - 167/114(117)} mmHg
   RR: 23 (16 - 25) insp/min
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 41 kg (admission): 41 kg
   Height: 58 Inch
             Total In:
                                                                  1,462 mL
                                                                    391 mL
   PO:
             120 mL
   TF:
                                                                    316 mL
   IVF:
                                                                    997 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    385 mL
   Urine:
                                                                  2,965 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,503 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 472 (50 - 472) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 153
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   ABG: 7.40/72/87.[**Numeric Identifier 244**]/42/15
   Ve: 6.8 L/min
   PaO2 / FiO2: 251
   Physical Examination
   Gen: awake, a &o x 3, answering questions appropriately, appears
   slightly agitated
   CV tachycardic, regular rhythm, no M/R/G
   Lungs: decreased breath sounds, non labored breathing on 3L NC
   Abd: soft, ntnd, bs+
   Ext: warm, dry, 2+ radial pulses, 1+ pedal pulses
   Labs / Radiology
   497 K/uL
   10.4 g/dL
   104 mg/dL
   0.5 mg/dL
   42 mEq/L
   4.7 mEq/L
   9 mg/dL
   99 mEq/L
   145 mEq/L
   32.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2156-5-26**]  03:10 PM
                             [**2156-5-26**]  05:46 PM
                             [**2156-5-27**]  04:53 AM
                             [**2156-5-28**]  12:17 AM
                             [**2156-5-28**]  04:48 AM
                             [**2156-5-29**]  05:34 AM
                             [**2156-5-29**]  05:15 PM
                             [**2156-5-30**]  03:09 AM
                             [**2156-5-30**]  12:55 PM
                             [**2156-5-31**]  04:59 AM
   WBC
   9.6
   12.2
   12.2
   9.7
   12.3
   Hct
   30.9
   29.8
   29.8
   27.2
   27.6
   32.3
   Plt
   531
   555
   501
   460
   497
   Cr
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   TCO2
   38
   46
   Glucose
   78
   108
   84
   109
   101
   104
   Other labs: PT / PTT / INR:12.7/28.6/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:9.4
   %, Mono:5.9 %, Eos:1.1 %, Lactic Acid:1.3 mmol/L, Ca++:9.3 mg/dL,
   Mg++:2.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   86 y/o F h/o COPD and UC a/w hypercarbic respiratory failure in the
   setting of respiratory infection, intubated for change in mental
   status, now s/p extubation today.
   .
   #Hypercarbic respiratory failure
 Resolved, s/p extubation. Combination
   drug-COPD exacerbation most likely in the setting of viral URI vs.
   bacterial PNA, less likely volume overload (volume depleted on
   admission, CXR did not show pulm edema, LV function normal by echo
   [**2156-5-25**]). Chest CT lowers suspicion for VAP.
   - Change bronchodilators to nebs; flovent [**Hospital1 **]
   -d/c vanco; complete 7 day course of levaquin
   -complete pred taper
 20-20-10-10
   -cont. gentle diuresis to optimize resp status
   .
   #AMS
 Appears at, or close to, baseline per daughter; likely resolving
   toxic-metabolic and/or drug-induced etiologies
   -avoid benzos, as likely caused paradoxical agitation
   -avoid narcotics, resp. depression
   -zyprexa zydis PRN agitatiom; may try low-dose haldol if another [**Doctor Last Name **]
   required for agitation/delirium
   .
   #E. Coli UTI
 sensitivities avail.
   -cont. meropenem (day [**1-23**])
    .
   #Recent C.diff colitis - appears to have resolved
   -cont. PO vanco x 4 wks, particularly while on ABX  -- continue 2 week
   after last dose of abx.
   .
   #Ulcerative Colitis- apparently quiescent disease, although necrotic
   leg ulcer looks like pyoderma gangrenosum
   -cont. balsalazide and mesalamine
   -touch base with Dr. [**Last Name (STitle) 3515**]
   .
   #F/E/N
   -volume goal: -[**Telephone/Fax (1) 1335**] cc x 24 hrs; responds well to low-dose lasix
   -TF
 Probalance (goal 35 cc/hr); consider S&S eval prior to starting
   PO
   .
   #PPI, SQH, bowel regimen
   .
   #Access
 PIV, PICC
   .
   #Contact: daughter, [**Name (NI) 263**] [**Name (NI) 3518**] h:[**Telephone/Fax (1) 3519**] w:[**Telephone/Fax (1) 3520**]
   .
   #Code Status
 DNR/DNI (for Reintubation)
   .
   #Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-5-28**] 12:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-05-31 12:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pt extubated--transient BIPAP post extubation
   Pt with improved mental status and improved alertness
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-5-29**] 12:23 PM
   Vancomycin - [**2156-5-31**] 06:00 AM
   Meropenem - [**2156-5-31**] 08:08 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2156-5-30**] 04:15 PM
   Morphine Sulfate - [**2156-5-30**] 04:15 PM
   Fentanyl - [**2156-5-30**] 08:18 PM
   Furosemide (Lasix) - [**2156-5-30**] 08:39 PM
   Heparin Sodium (Prophylaxis) - [**2156-5-31**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Extubated
   Flowsheet Data as of  [**2156-5-31**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96
   HR: 106 (91 - 119) bpm
   BP: 158/53(101) {100/53(72) - 167/114(117)} mmHg
   RR: 21 (17 - 25) insp/min
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 40.6 kg (admission): 41 kg
   Height: 58 Inch
             Total In:
                                                                  1,462 mL
                                                                    998 mL
   PO:
             120 mL
   TF:
                                                                    316 mL
   IVF:
                                                                    997 mL
                                                                    878 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    545 mL
   Urine:
                                                                  2,965 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,503 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 472 (385 - 472) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   ABG: 7.40/72/87.[**Numeric Identifier 244**]/42/15
   Ve: 6.8 L/min
   PaO2 / FiO2: 251
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   497 K/uL
   104 mg/dL
   0.5 mg/dL
   42 mEq/L
   4.7 mEq/L
   9 mg/dL
   99 mEq/L
   145 mEq/L
   32.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2156-5-26**]  03:10 PM
                             [**2156-5-26**]  05:46 PM
                             [**2156-5-27**]  04:53 AM
                             [**2156-5-28**]  12:17 AM
                             [**2156-5-28**]  04:48 AM
                             [**2156-5-29**]  05:34 AM
                             [**2156-5-29**]  05:15 PM
                             [**2156-5-30**]  03:09 AM
                             [**2156-5-30**]  12:55 PM
                             [**2156-5-31**]  04:59 AM
   WBC
   9.6
   12.2
   12.2
   9.7
   12.3
   Hct
   30.9
   29.8
   29.8
   27.2
   27.6
   32.3
   Plt
   531
   555
   501
   460
   497
   Cr
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   TCO2
   38
   46
   Glucose
   78
   108
   84
   109
   101
   104
   Other labs: PT / PTT / INR:12.5/43.9/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:9.4
   %, Mono:5.9 %, Eos:1.1 %, Lactic Acid:1.3 mmol/L, Ca++:9.3 mg/dL,
   Mg++:2.9 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR-PICC in reasonable position, patient rotated to left, mild
   pulmonary infiltrates at worst.
   Assessment and Plan
   84 yo female with COPD and admitted with hypercarbic respiratory
   failure now with successful extubation.  This represents progress in
   the setting of improved volume status and improved mental status
   contributing to successful extubation.
   Respiratory Failure-
   Will need pulmonary toiled, Oob to chair and chest PT to expand lung
   volumes and clear the secretions
   If possible ambulation would be optimal and would get PT involved.
   Mental status much improved and is likely secondary to improved
   infectious insults.
   Chronic Obstructive Pulmonary Disease--with acute exacerbation
   -Prednisone Taper
   -Flovent and bronchodilators
   Pneumonia
   -Levo/Meropenem in place now
   -continue 7 days total for PNA
   UTI-
   -Continue with Meropenem
   Colitis
Continued medications
   gg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: PICC
   PICC Line - [**2156-5-28**] 12:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI at this time
   Disposition :ICU
   Total time spent: 45 minutes

2156-05-31 18:16:00 Physician Resident Progress Note
Chief Complaint: respiratory distress, UTI
   24 Hour Events:
   Pt extubated and doing well.
   Tachycardia and HTN overnight: received prn metoprolol, diltiazem,
   zyprexa, and trazadone.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-5-31**] 12:04 PM
   Levofloxacin - [**2156-5-31**] 12:05 PM
   Meropenem - [**2156-5-31**] 04:10 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-5-30**] 08:18 PM
   Furosemide (Lasix) - [**2156-5-30**] 08:39 PM
   Heparin Sodium (Prophylaxis) - [**2156-5-31**] 04:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-5-31**] 06:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 118 (99 - 119) bpm
   BP: 158/53(101) {100/53(72) - 166/114(117)} mmHg
   RR: 19 (17 - 25) insp/min
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 40.6 kg (admission): 41 kg
   Height: 58 Inch
             Total In:
                                                                  1,462 mL
                                                                  1,730 mL
   PO:
             260 mL
   TF:
                                                                    316 mL
   IVF:
                                                                    997 mL
                                                                  1,470 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                  1,600 mL
   Urine:
                                                                  2,965 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,503 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   ABG: ///42/
   Physical Examination
   Gen: NAD, awake, a & o x 3
   CV: tachycardic, regular rhythm, no M/R/G
   Lungs: decreased breath sounds bilaterally, moderate effort
   Abd: +bs, soft, ntnd
   Ext: warm, dry, 2+ radial pulses, 1+ pedal pulses, no edema or cyanosis
   Labs / Radiology
   497 K/uL
   10.4 g/dL
   104 mg/dL
   0.5 mg/dL
   42 mEq/L
   4.7 mEq/L
   9 mg/dL
   99 mEq/L
   145 mEq/L
   32.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2156-5-26**]  03:10 PM
                             [**2156-5-26**]  05:46 PM
                             [**2156-5-27**]  04:53 AM
                             [**2156-5-28**]  12:17 AM
                             [**2156-5-28**]  04:48 AM
                             [**2156-5-29**]  05:34 AM
                             [**2156-5-29**]  05:15 PM
                             [**2156-5-30**]  03:09 AM
                             [**2156-5-30**]  12:55 PM
                             [**2156-5-31**]  04:59 AM
   WBC
   9.6
   12.2
   12.2
   9.7
   12.3
   Hct
   30.9
   29.8
   29.8
   27.2
   27.6
   32.3
   Plt
   531
   555
   501
   460
   497
   Cr
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   TCO2
   38
   46
   Glucose
   78
   108
   84
   109
   101
   104
   Other labs: PT / PTT / INR:12.5/43.9/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:9.4
   %, Mono:5.9 %, Eos:1.1 %, Lactic Acid:1.3 mmol/L, Ca++:9.3 mg/dL,
   Mg++:2.9 mg/dL, PO4:3.2 mg/dL
   [**2156-5-24**]: Blood cx: NG
   [**2156-5-26**]:  Urine cx: E. coli
   [**2156-5-28**] sputum cx: no organisms
   Assessment and Plan
   A/P: 86 y/o F with COPD and UC a/w hypoxia and change in mental status,
   intubated in the ED for hypercarbic respiratory failure.
   #Hypercarbic respiratory failure - COPD exacerbation most likely in the
   setting of viral URI, less likely bacterial pneumonia or fluid overload
   based on CXR.
   - extubated [**2156-5-30**]; doing well on 3L NC
   -will cont. levaquin while awaiting cultures
   -continue week-long taper of prednisone 2O po
   -atrovent MDI
   -albuterol MDI
   -flovent [**Hospital1 **]
   -          PFT's as an outpatient
   -          ECHO [**2156-5-25**]: moderate pulmonary artery systolic HTN; mild
   MR; LVEF >55%
   .
   # UTI:
   - Urine Cx: E.coli (possible ESBL)
   - currently on meropenem; consider switching to alternative abx keeping
   in mind PCN allergy (hives).
   # Tachycardia:
   EKG: sinus tach with increased APCs and VPCs
   Start metoprolol 12.5mg po bid
   Continue telemetry
   #Anxiety/Agitation: persists and may be contributing factor to
   tachycardia
   Because of prior paradoxical effects of benzos will avoid benzos.  Use
   zyprexa 5mg q8h prn agitation.  [**Month (only) 60**] use trazadone qhs prn if difficulty
   sleeping.
   #Recent C.diff colitis - appears to have resolved
   -cont. PO vanco x 4 wks (start date was [**2156-5-11**] per rehab records);
   continue vanc 2 wks post last abx treatment
   .
   #Ulcerative Colitis- apparently quiescent disease, although necrotic
   leg ulcer looks like pyoderma gangrenosum
   -cont. balsalazide and mesalamine
   -touch base with Dr. [**Last Name (STitle) 3515**]
   #F/E/N
 euvolemic by exam
   - start regular diet
   - hold lasix today
   #PPI, SQH, bowel regimen
   #Access
 R PICC
   #Contact: [**Name (NI) 263**] [**Name (NI) 3518**] h:[**Telephone/Fax (1) 3519**] w:[**Telephone/Fax (1) 3520**]
   #Code Status
 DNR/DNI no intubation
   #Dispo - ICU; once tachycardia is controlled will transfer to floor
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2156-5-28**] 12:23 PM
   Prophylaxis:
   DVT:  SQH
   Stress ulcer:  PPI
   VAP:  N/A
   Comments:
   Communication:  Comments: daughter [**Name (NI) 263**] [**Last Name (NamePattern1) 3518**]
   Code status: DNR/DNI no reintubation
   Disposition: ICU for today ; consider floor tomorrow if stable

2156-06-01 07:39:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
 EKG - At [**2156-5-31**] 07:30 PM
 EKG - At [**2156-6-1**] 06:00 AM
   Pt agitated with tachycardia and hypertension overnight converting to
   A-fib with RVR early this morning.  Unsuccessfully attempted rate
   control with both IV and PO metoprolol.  Pt given single iv dose of
   diltiazem. Nebulizers provided prn.
   During rounds pt returned to sinus rhythm.
   Respiratory distress persisted despite frequent nebs and patient was
   placed on BiPAP.  Pt became acutely hypotensive during BiPAP.  Limited
   IV access for boluses, but fluids were administered via PICC line.
   Pt
s daughter, [**Name (NI) 263**] [**Name (NI) 3518**], was called at home and informed of
   pt
s declining mental and respiratory status.
   Pt currently DNR/DNI.   Will discuss specifics about goals of therapy
   with daughter when she arrives this morning at the [**Hospital Unit Name 44**].
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-5-31**] 12:04 PM
   Levofloxacin - [**2156-5-31**] 12:05 PM
   Meropenem - [**2156-5-31**] 04:10 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-5-31**] 04:10 PM
   Furosemide (Lasix) - [**2156-6-1**] 06:40 AM
   Metoprolol - [**2156-6-1**] 06:56 AM
   Diltiazem - [**2156-6-1**] 07:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-6-1**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.2
C (95.4
   HR: 122 (92 - 152) bpm
   BP: 122/80(90) {100/39(72) - 177/128(134)} mmHg
   RR: 28 (17 - 47) insp/min
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 40.6 kg (admission): 41 kg
   Height: 58 Inch
             Total In:
                                                                  1,980 mL
                                                                    165 mL
   PO:
                                                                    440 mL
                                                                     90 mL
   TF:
   IVF:
                                                                  1,540 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,002 mL
                                                                    642 mL
   Urine:
                                                                  2,002 mL
                                                                    642 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -22 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   ABG: ///42/
   Physical Examination
   Gen: moderate respiratory distress, responding to name, unable to talk
   CV:  irregular rhythm, tachycardic, no M/R/G
   Lungs:  very little air movement, wheezing and slight crackles
   bilaterally
   Abd: +bs, soft, ntnd
   Ext: warm, no edema, 2+ radial pulses, 1+ distal pulses
   Labs / Radiology
   544 K/uL
   10.5 g/dL
   137 mg/dL
   0.5 mg/dL
   42 mEq/L
   4.0 mEq/L
   11 mg/dL
   99 mEq/L
   145 mEq/L
   34.3 %
   16.5 K/uL
        [image002.jpg]
                             [**2156-5-27**]  04:53 AM
                             [**2156-5-28**]  12:17 AM
                             [**2156-5-28**]  04:48 AM
                             [**2156-5-29**]  05:34 AM
                             [**2156-5-29**]  05:15 PM
                             [**2156-5-30**]  03:09 AM
                             [**2156-5-30**]  12:55 PM
                             [**2156-5-31**]  04:59 AM
                             [**2156-5-31**]  08:02 PM
                             [**2156-6-1**]  04:02 AM
   WBC
   9.6
   12.2
   12.2
   9.7
   12.3
   16.5
   Hct
   29.8
   29.8
   27.2
   27.6
   32.3
   34.3
   Plt
   531
   555
   501
   460
   497
   544
   Cr
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   46
   Glucose
   78
   108
   84
   109
   101
   104
   137
   Other labs: PT / PTT / INR:12.5/43.9/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:9.4
   %, Mono:5.9 %, Eos:1.1 %, Lactic Acid:1.3 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: 86 y/o F with COPD and UC a/w hypoxia and change in mental status,
   intubated in the ED for hypercarbic respiratory failure.   Currently
   extubated but respiratory distress has returned.
   #Hypercarbic respiratory failure - COPD exacerbation most likely in the
   setting of viral URI, less likely bacterial pneumonia or fluid overload
   based on CXR.
   - extubated [**2156-5-30**]; increased O2 demand from 3L NC to 60% facemask
   overnight
   - trial of BiPAP during acute respiratory distress this morning with
   resulting hypotension and minimal improvement in mental status.  Will
   discuss with daughter wishes of continuing BiPAP therapy.
   -continue atrovent MDI
   -continue albuterol MDI
   -continue flovent [**Hospital1 **]
   - ECHO [**2156-5-25**]: moderate pulmonary artery systolic HTN; mild MR; LVEF
   >55%
   -will cont. levaquin while awaiting cultures
   -continue week-long taper of prednisone 2O po
   - for possible pulmonary edema continue low dose lasix prn
   .
   # UTI:
   - Urine Cx: E.coli (possible ESBL)
   - currently on meropenem; consider switching to alternative abx to
   narrow coverage, keeping in mind PCN allergy (hives).
   # Tachycardia:
   EKG: sinus tach with increased APCs and VPCs yesterday converting to
   A-fib with RVR this morning and converting back to sinus rhythm this
   morning during rounds.
   Attempted rate control this morning with multiple doses of metoprolol
   po and IV without success.
   Will hold metoprolol in face of worsening COPD exacerbation.
   Consider diltiazem for rate control if A-fib with RVR returns.
   Continue telemetry.
   #Anxiety/Agitation: persists and may be contributing factor to
   tachycardia
   Because of prior paradoxical effects of benzos will avoid benzos.  Use
   zyprexa 5mg q8h prn agitation.  [**Month (only) 60**] use trazadone qhs prn if difficulty
   sleeping.
   #Recent C.diff colitis - appears to have resolved
   -cont. PO vanco x 4 wks (start date was [**2156-5-11**] per rehab records);
   continue vanc 2 wks post last abx treatment
   #Ulcerative Colitis- apparently quiescent disease, although necrotic
   leg ulcer looks like pyoderma gangrenosum
   -cont. balsalazide and mesalamine
   #F/E/N
 euvolemic by exam
   - started regular diet yesterday but will hold today (must consider
   aspiration pneumonitis/pneumonia in the setting of acute respiratory
   distress <24hrs after starting regular diet yesterday)
   - give low dose lasix if respiratory status fails to improve
   #PPI, SQH, bowel regimen
   #Access
 R PICC
   #Contact: [**Name (NI) 263**] [**Name (NI) 3518**] h:[**Telephone/Fax (1) 3519**] w:[**Telephone/Fax (1) 3520**]
   #Code Status
 DNR/DNI no reintubation; will discuss goals of care with
   daughter [**Name (NI) 263**] [**Name (NI) 3518**]
   #Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-5-28**] 12:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2156-06-01 09:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2156-5-31**] 07:30 PM
 EKG - At [**2156-6-1**] 06:00 AM
   Patient with worsening respiratory status overnight.  This is in the
   setting of poor cough and ongoing secretions.
   She then evolved A-Fib with RVR overnight
   Patient treated wtih IV lopressor with some improvement in rate
   She had diffuse wheezing and crackles noted and diuresis attempted
   which was complicated by hypotension
   Patient was started on [**Hospital1 **]-Level support at 15/5 for worsening
   hypercarbia
   This morning patient has persistent hypotension and resp distress and
   Daughter updated by phone and asked to come in given significant
   clinical worsening.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-5-31**] 12:04 PM
   Levofloxacin - [**2156-5-31**] 12:05 PM
   Meropenem - [**2156-5-31**] 04:10 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-5-31**] 04:10 PM
   Furosemide (Lasix) - [**2156-6-1**] 06:40 AM
   Metoprolol - [**2156-6-1**] 06:56 AM
   Diltiazem - [**2156-6-1**] 07:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2156-6-1**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.2
C (95.4
   HR: 122 (92 - 152) bpm
   BP: 122/80(90) {100/39(72) - 177/128(134)} mmHg
   RR: 28 (17 - 47) insp/min
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 40.6 kg (admission): 41 kg
   Height: 58 Inch
             Total In:
                                                                  1,980 mL
                                                                    176 mL
   PO:
                                                                    440 mL
                                                                     90 mL
   TF:
   IVF:
                                                                  1,540 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  2,002 mL
                                                                    642 mL
   Urine:
                                                                  2,002 mL
                                                                    642 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -22 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 317 (317 - 317) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   FiO2: 60%
   ABG: 7.24/115/86/42/16
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : monophonic, Diminished: Left Side)
   Abdominal: Soft
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, somnolent
   Labs / Radiology
   10.5 g/dL
   544 K/uL
   137 mg/dL
   0.5 mg/dL
   42 mEq/L
   4.0 mEq/L
   11 mg/dL
   99 mEq/L
   145 mEq/L
   34.3 %
   16.5 K/uL
        [image002.jpg]
                             [**2156-5-28**]  12:17 AM
                             [**2156-5-28**]  04:48 AM
                             [**2156-5-29**]  05:34 AM
                             [**2156-5-29**]  05:15 PM
                             [**2156-5-30**]  03:09 AM
                             [**2156-5-30**]  12:55 PM
                             [**2156-5-31**]  04:59 AM
                             [**2156-5-31**]  08:02 PM
                             [**2156-6-1**]  04:02 AM
                             [**2156-6-1**]  07:27 AM
   WBC
   12.2
   12.2
   9.7
   12.3
   16.5
   Hct
   29.8
   27.2
   27.6
   32.3
   34.3
   Plt
   [**Telephone/Fax (3) 3604**]97
   544
   Cr
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   46
   52
   Glucose
   108
   84
   109
   101
   104
   137
   Other labs: PT / PTT / INR:12.5/43.9/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:9.4
   %, Mono:5.9 %, Eos:1.1 %, Lactic Acid:1.2 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR-[**2156-6-1**]--Striking asymmetry with hyperlucency on right
   suggesting dynamic hyperinflation and increased diffuse pulmonary
   infiltrates on left suggestive of edema given acute evolution
   Assessment and Plan
   86 yo female with history of COPD and now s/p extubation after
   optimized therapy now has had progressive worsening over past 12
   hours.  This may well be evidence of aspiration triggering some
   increased respiratory distress and in that setting triggering of A-fib
   and worsening hemodynamic compromise.  This may be triggered by the
   incapacity to adequately control oral secretions and po intake.  We
   have taken patient off BIPAP and provided fluid bolus to try to aid in
   establishment of stable BP.  This likely represents significant
   evidence of failure to maintain stable respiratory status off the
   ventilator and with an easy trigger of cardiovascular compromise in the
   setting of recurrent respiratory distress.
   1)Respiratory Failure-
   -BIPAP 10/5 as much tolerated
   -Nebs q6 and PRN with focus on non-B Agonists
   -Will need to be npo and maintain aspiration precautions
   2)Atrial Fibrillation-
   -Return to sinus rhythm at this time with improvement in respiratory
   status
   -Maintain nodal blockade in bacground
   3)Pneumonia/UTI/C. Diff-
   -Continue with Vanco/Levo/[**Last Name (un) **] for 7 day course as reasonable minimum
   but will not discontinue in the setting of such tenuous clinical
   status.
   -Can not rule out pneumonia given pulmonary infiltrates and compromise
   4)Hypotension-
   -Likely cardiogenic compromise with Atrial Fibrillation
   -IVF bolus as tolerated
   -No role for pressors given goals of care
   5)ICU-
   Extensive discussion with daughter in regards to source of compromise
   which represents unstable cardiovascular status with atrial
   fibrillation and hypotension as well as severe chronic obstructive
   pulmonary disease and rapid evolution of hypercarbia and dynamic
   hyperinflation with event triggered likely by aspiration event but may
   well be a component of hydrostatic edema
both of which are possible to
   be recurrent over time.  Ms. [**Known lastname 3513**]
s daughter was quite clear that
   she would not want prolonged intubation or ventilatory support and
   given the absence of a rapid resolution of the current active issues
   she would express her mother
s wishes to be no intubation, no CPR and
   for goals of care to focus on comfort if stable clinical status is not
   achieved at the current levels of support.
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   PICC Line - [**2156-5-28**] 12:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2156-06-02 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Asacol (Oral) (Mesalamine)
   Unknown;
   Rowasa (Rectal) (Mesalamine)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-5-31**] 12:04 PM
   Levofloxacin - [**2156-5-31**] 12:05 PM
   Meropenem - [**2156-6-1**] 09:11 AM
   Infusions:
   Morphine Sulfate - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-6-2**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 115 (85 - 164) bpm
   BP: 82/51(67) {66/20(36) - 102/64(72)} mmHg
   RR: 12 (12 - 28) insp/min
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 40.6 kg (admission): 41 kg
   Height: 58 Inch
             Total In:
                                                                    883 mL
                                                                     94 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                    793 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  1,247 mL
                                                                     60 mL
   Urine:
                                                                  1,247 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -364 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   544 K/uL
   10.5 g/dL
   137 mg/dL
   0.5 mg/dL
   42 mEq/L
   4.0 mEq/L
   11 mg/dL
   99 mEq/L
   145 mEq/L
   34.3 %
   16.5 K/uL
        [image002.jpg]
                             [**2156-5-28**]  12:17 AM
                             [**2156-5-28**]  04:48 AM
                             [**2156-5-29**]  05:34 AM
                             [**2156-5-29**]  05:15 PM
                             [**2156-5-30**]  03:09 AM
                             [**2156-5-30**]  12:55 PM
                             [**2156-5-31**]  04:59 AM
                             [**2156-5-31**]  08:02 PM
                             [**2156-6-1**]  04:02 AM
                             [**2156-6-1**]  07:27 AM
   WBC
   12.2
   12.2
   9.7
   12.3
   16.5
   Hct
   29.8
   27.2
   27.6
   32.3
   34.3
   Plt
   [**Telephone/Fax (3) 3604**]97
   544
   Cr
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   46
   52
   Glucose
   108
   84
   109
   101
   104
   137
   Other labs: PT / PTT / INR:12.5/43.9/1.1, CK / CKMB /
   Troponin-T:27/4/<0.01, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:9.4
   %, Mono:5.9 %, Eos:1.1 %, Lactic Acid:1.2 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: 86 y/o F with COPD and UC a/w hypoxia and change in mental status,
   intubated in the ED for hypercarbic respiratory failure.   Currently
   extubated but respiratory distress has returned.
   #Hypercarbic respiratory failure - COPD exacerbation most likely in the
   setting of viral URI, less likely bacterial pneumonia or fluid overload
   based on CXR.
   - extubated [**2156-5-30**]; increased O2 demand from 3L NC to 60% facemask
   overnight
   - trial of BiPAP during acute respiratory distress this morning with
   resulting hypotension and minimal improvement in mental status.  Will
   discuss with daughter wishes of continuing BiPAP therapy.
   -continue atrovent MDI
   -continue albuterol MDI
   -continue flovent [**Hospital1 **]
   - ECHO [**2156-5-25**]: moderate pulmonary artery systolic HTN; mild MR; LVEF
   >55%
   -will cont. levaquin while awaiting cultures
   -continue week-long taper of prednisone 2O po
   - for possible pulmonary edema continue low dose lasix prn
   .
   # UTI:
   - Urine Cx: E.coli (possible ESBL)
   - currently on meropenem; consider switching to alternative abx to
   narrow coverage, keeping in mind PCN allergy (hives).
   # Tachycardia:
   EKG: sinus tach with increased APCs and VPCs yesterday converting to
   A-fib with RVR this morning and converting back to sinus rhythm this
   morning during rounds.
   Attempted rate control this morning with multiple doses of metoprolol
   po and IV without success.
   Will hold metoprolol in face of worsening COPD exacerbation.
   Consider diltiazem for rate control if A-fib with RVR returns.
   Continue telemetry.
   #Anxiety/Agitation: persists and may be contributing factor to
   tachycardia
   Because of prior paradoxical effects of benzos will avoid benzos.  Use
   zyprexa 5mg q8h prn agitation.  [**Month (only) 60**] use trazadone qhs prn if difficulty
   sleeping.
   #Recent C.diff colitis - appears to have resolved
   -cont. PO vanco x 4 wks (start date was [**2156-5-11**] per rehab records);
   continue vanc 2 wks post last abx treatment
   #Ulcerative Colitis- apparently quiescent disease, although necrotic
   leg ulcer looks like pyoderma gangrenosum
   -cont. balsalazide and mesalamine
   #F/E/N
 euvolemic by exam
   - started regular diet yesterday but will hold today (must consider
   aspiration pneumonitis/pneumonia in the setting of acute respiratory
   distress <24hrs after starting regular diet yesterday)
   - give low dose lasix if respiratory status fails to improve
   #PPI, SQH, bowel regimen
   #Access
 R PICC
   #Contact: [**Name (NI) 263**] [**Name (NI) 3518**] h:[**Telephone/Fax (1) 3519**] w:[**Telephone/Fax (1) 3520**]
   #Code Status
 DNR/DNI no reintubation; will discuss goals of care with
   daughter [**Name (NI) 263**] [**Name (NI) 3518**]
   #Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-5-28**] 12:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: